US09169259B2
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (0.15 g, 0.456 mmol), 2-chlorophenylboronic acid (0.078 g, 0.5 mmol), Pd2(dba)3 (0.058 g, 0.1 mmol), X-phos (0.095 g, 0.2 mmol) and Na2CO3 (0.145 g, 1.368 mmol) in dioxane (20 mL) and water (5 mL) was heated to 100° C. for 16 h in a sealed tube under N2 atmosphere then concentrated in vacuo. The residue was purified by chromatography (silica gel, 10 g, 200˜300 mesh, ethyl acetate petroleum ether=1:20) and then further purified by Prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 35% acetonitrile/65% water (0.1% TFA VAT) initially, proceeding to 50% acetonitrile/50% water (0.1% TFA VAT) in a linear fashion over 9 min). The fractions containing product were acidified by the addition of concentrated HCl and concentrated to afford 6-(2-chlorophenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride (81 mg, 40%) as a yellow solid. 1H NMR (300 MHz, CD3OD): δ 8.67 (s, 1H), 8.42 (d, 1H, J=1.8 Hz), 8.17 (d, 1H, J=1.8 Hz), 7.66-7.48 (m, 5H), 6.48 (d, 1H, J=7.5 Hz), 6.34 (d, 1H, J=8.4 Hz), 4.26-4.22 (m, 1H), 3.63-3.57 (m, 1H), 3.44-3.38 (m, 1H), 2.17-2.04 (m, 3H), 1.76-1.38 (m, 1H), 1.09 (d, 3H, J=6.3 Hz) LC-MS: [M+H]+, 405, tR=1.971 min, HPLC: 98.88% at 214 nm, 98.93% at 254 nm, tR=7.63 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.456 mmol, 0.15 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 2-chlorophenylboronic acid | 0.5 mmol, 0.078 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | X-phos | 0.2 mmol, 0.095 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 1.368 mmol, 0.145 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd2(dba)3 | 0.1 mmol, 0.058 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(2-chlorophenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride | 81 mg, 40% | Cl.ClC1=C(C=CC=C1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | InChI=1S/C22H21ClN6.ClH/c1-15-6-5-12-28(15)21-10-4-9-20(26-21)25-19-14-18(16-7-2-3-8-17(16)23)27-29-13-11-24-22(19)29;/h2-4,7-11,13-15H,5-6,12H2,1H3,(H,25,26);1H
